US09063126B2
1-(4-chlorobenzyl)-1-(4-fluorophenyl)hydrazine
A flask containing tetrahydrofuran (2.0 mL) was charged with sodium amide (202 mg, 4.92 mmol; Aldrich) and chilled to 0° C. (4-Fluorophenyl)hydrazine hydrochloride (400 mg, 2.46 mmol; Aldrich) was added in portions. After 5 minutes the solid had completely dissolved and the ice bath was removed. Stirring was continued for 1 hour, then the solution was chilled again in an ice bath and 1-(bromomethyl)-4-chlorobenzene (556 mg, 2.7 mmol; Aldrich) was added dropwise. After 30 minutes, the ice bath was removed and the reaction was heated to 50° C. overnight. The mixture was diluted with water (5 mL) and extracted with dichloromethane (2×10 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the title product which was carried on without further purification: LC/MS (DCI/NH3) m/z 234 (M+H−NH3)+.

reactant | sodium amide | 4.92 mmol, 202 mg | [NH2-].[Na+]
reactant | (4-Fluorophenyl)hydrazine hydrochloride | 2.46 mmol, 400 mg | Cl.FC1=CC=C(C=C1)NN
reactant | 1-(bromomethyl)-4-chlorobenzene | 2.7 mmol, 556 mg | BrCC1=CC=C(C=C1)Cl | C7H6BrCl
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 1-(4-chlorobenzyl)-1-(4-fluorophenyl)hydrazine | ClC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1 | C13H12ClFN2
